US04359570
A mixture of 1,5-dichloroanthraquinone (13.8 grams, 0.05 mole), o-mercapto benzoic acid (15.4 grams, 0.10 mole), potassium carbonate (13.8 grams, 0.10 mole), and N,N-dimethylformamide (200 ml) was heated at approximately 125° C. for four hours. The reaction mixture was allowed to cool to room temperature and then drowned into water (500 ml) and acidified with acetic acid to a pH of about 5.0. The dye was collected by filtration, washed with hot water, and then dried in air to yield 23.5 grams of 1,5-bis(2-carboxyphenylthio)anthraquinone.

reactant | 1,5-dichloroanthraquinone | 0.05 mole, 13.8 grams | ClC1=CC=CC=2C(C3=C(C=CC=C3C(C12)=O)Cl)=O | C14H6Cl2O2
reactant | o-mercapto benzoic acid | 0.10 mole, 15.4 grams | SC1=C(C(=O)O)C=CC=C1 | C7H6O2S
reactant | potassium carbonate | 0.10 mole, 13.8 grams | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 500 ml | O | H2O
product | 1,5-bis(2-carboxyphenylthio)anthraquinone | 23.5 grams | C(=O)(O)C1=C(C=CC=C1)SC1=CC=CC=2C(C3=C(C=CC=C3C(C12)=O)SC1=C(C=CC=C1)C(=O)O)=O | C28H16O6S2
